US06002008
4-[(3-Chloro-4thiophenoxyphenyl)amino]-6-nitro-3-quinolinecarbonitrile
A mixture of 5.00 g (21.5 mmol) 4-chloro-6-nitro-3-quinolinecarbonitrile, 250 ml ethanol, and 6.07 g (25.6 mmol) 3-chloro-4-thiophenoxyaniline was heated to reflux under N2. Removed heat at about 8 hours, made basic with saturated sodium bicarbonate, stripped solvents and azeotroped with ethanol. Slurried residue with hexane and collected solids. Washed with water and dried in vacuo. Dissolved nearly completely in 400 ml ethyl acetate, stirred with Darco and filtered. Stripped solvent and boiled in hexane to remove last of the excess aniline. Dried in vacuo, giving 6.90 g of red solid: mass spectrum (electrospray m/e): M+H=433.1, 435.1.

reactant | 4-chloro-6-nitro-3-quinolinecarbonitrile | 21.5 mmol, 5.00 g | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | 3-chloro-4-thiophenoxyaniline | 25.6 mmol, 6.07 g | ClC=1C=C(N)C=CC1SC1=CC=CC=C1 | C12H10ClNS
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-[(3-Chloro-4thiophenoxyphenyl)amino]-6-nitro-3-quinolinecarbonitrile | 6.90 g | ClC=1C=C(C=CC1SC1=CC=CC=C1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C22H13ClN4O2S
